US06787539B2
To a solution of 1.60 g (4.61 mmol) (2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester in 20 ml N,N-dimethylformamide 0.25 g (6.4 mmol) sodiumhydride (60% dispersion in mineraloil) was added and the reaction mixture stirred for 1 h. After the addition of 0.48 ml (7.83 mmol) methyl iodide at 0°, the reaction mixture was stirred for 3 hrs. The reaction mixture was poured into 100 ml ice-water and three times extracted with 80 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 19:1) to give 1.60 g (98%) methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert-butyl ester as a colorless oil, MS (EI): 361 (M+)

reactant | (2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester | 4.61 mmol, 1.60 g | C(C)(C)(C)OC(NC=1C(=NC(=NC1)SC)OC1=C(C=CC=C1)C)=O | C17H21N3O3S
reactant | N,N-dimethylformamide | 6.4 mmol, 20 ml, 0.25 g | CN(C=O)C | C3H7NO
reactant | methyl iodide | 7.83 mmol, 0.48 ml | CI | CH3I
product | methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert-butyl ester | 1.60 g, 98% | C(C)(C)(C)OC(N(C=1C(=NC(=NC1)SC)OC1=C(C=CC=C1)C)C)=O | C18H23N3O3S
